* C:\Users\seijirom\work\SCF2\SCF-Biquad(real)mod(scaled)1kHz.asc
Iref Iref 0 208µ
Vin-diff IN+ IN- PULSE(0 4 0.5m 1u 1u 10u 1) AC 1
V2 0 -VSS 5
V4 +VDD 0 5
Vin-cm N007 0 0 AC 0
C3 N010 N012 24p
XX1 N008 N001 OUT1- OUT1+ +VDD -VSS N012 N010 Iref diffamp
C1 N011 N013 24p
XX2 N009 N003 OUT2- OUT2+ +VDD -VSS N013 N011 Iref diffamp
C2 OUT1+ N001 1.5915p
C4 OUT1- N008 1.5915p
C5 OUT2+ N003 1.5915p
C6 OUT2- N009 1.5915p
R9 IN+ N007 1
R10 IN- N007 1
Iref1 Iref 0 208µ
Vin2 CK1 0 PULSE(5 -5 0.5u 0.5u 0.5uu 4u 10u) AC 0
Vin3 CK2 0 PULSE(-5 5 0 0.5u 0.5u 5u 10u) AC 0
M3 N017 CK2 N008 +VDD YSS_PMOS l=14u w=14u
M4 OUT2+ CK1 N017 +VDD YSS_PMOS l=14u w=14u
C9 N017 0 1.0p
M5 N014 CK1 IN- +VDD YSS_PMOS l=14u w=14u
M6 N008 CK2 N014 +VDD YSS_PMOS l=14u w=14u
C10 N014 0 1.0p
M7 N006 CK1 N003 +VDD YSS_PMOS l=14u w=14u
M8 OUT1+ CK2 N006 +VDD YSS_PMOS l=14u w=14u
C11 N006 0 1p
M9 N015 CK2 OUT1- +VDD YSS_PMOS l=14u w=14u
M10 N009 CK1 N015 +VDD YSS_PMOS l=14u w=14u
C12 N015 0 1p
M11 N004 CK2 OUT2+ +VDD YSS_PMOS l=14u w=14u
M12 N003 CK1 N004 +VDD YSS_PMOS l=14u w=14u
C13 N004 0 1.414p
M13 N016 CK1 N009 +VDD YSS_PMOS l=14u w=14u
M14 OUT2- CK2 N016 +VDD YSS_PMOS l=14u w=14u
C14 N016 0 1.414p
M15 N002 CK1 OUT2- +VDD YSS_PMOS l=14u w=14u
M16 N001 CK2 N002 +VDD YSS_PMOS l=14u w=14u
C15 N002 0 1.0p
M17 N005 CK2 N001 +VDD YSS_PMOS l=14u w=14u
M18 IN+ CK1 N005 +VDD YSS_PMOS l=14u w=14u
C16 N005 0 1.0p

* block symbol definitions
.subckt diffamp +IN -IN -OUT +OUT +VDD -VSS C1 C2 Iref
M6 Iref N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M2 N007 Iref N001 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M3 N011 +IN N007 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
R1 N011 -VSS 30k
R2 N012 -VSS 30k
R3 C1 -VSS 30k
R4 C2 -VSS 30k
M4 N001 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M5 N004 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M7 N008 Iref N004 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M8 C1 N010 N008 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M1 N012 -IN N007 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M9 C2 N009 N008 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M10 N002 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M11 N010 Iref N002 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M12 -VSS N011 N010 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M13 -VSS N012 N009 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M14 N003 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M15 N009 Iref N003 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M16 N005 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u m=4
M17 +OUT Iref N005 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u m=4
M18 -VSS C1 +OUT +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u m=4
M19 -VSS C2 -OUT +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u m=4
M20 N006 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u m=4
M21 -OUT Iref N006 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u m=4
C9 C2 C1 50p
.lib ./mineda2020_1_pmos(Aug18).txt
.ends diffamp

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\seijirom\Documents\LTspiceXVII\lib\cmp\standard.mos
;dc Iref 200u 220u
.lib ..\..\parameter2\mineda2020_1_pmos(Aug18).txt
;op
;ac dec 100 1 1meg
.tran 0 10.5m 0.5m
* Compensation capacitor has been increased to 74pF, in total.
* Don't forget to give 208uA of Iref for each DiffAmp, or you will get a large common-mode offset!
* Designed directly by formula C=T/R. T=1/100kHz.
* Switches are all 14u/14u.
.backanno
.end
